US08114868B2
To a 1.0 L 2-neck RBF was charged (R)-3-(S)-1-(4-bromophenyl)ethyl)-6-(2-methylallyl)-6-phenyl-1,3-oxazinan-2-one (135.8 g, 59 wt %, 3.1:1 dr, 193 mmol, 1.00 equiv), dichloromethane (700 mL), and then 3-chloroperbenzoic acid (m-CPBA, 70%, 95.3 g, 386 mmol, 2.0 equiv). The resulting solution was agitated at rt (Tint=20-25° C.) for 1 h, which HPLC analysis indicates >99 A % (220 nm) conversion. The resulting solution was diluted with 700 mL of methyl tert-butyl ether (MTBE) and washed with 1×500 mL of 30 wt % solution of sodium thiosulfate and 1×500 mL of saturated aqueous solution of sodium bicarbonate. The wash sequence was repeated until the peak on an HPLC trace of the organic solution that corresponds to a HPLC sample peak of m-CPBA is <2.5 A % (220 nm), which in this example the wash sequence was repeated 3 times. The resulting organic layer was dried with anhydrous sodium sulfate, filtered and then concentrated to an oil via reduced pressure. The resulting material was diluted with 200 mL of anhydrous tetrahydrofuran and then concentrated to a thick oil via reduced pressure to provide (6S)-3-(S)-1-(4-bromophenyl)ethyl)-6-((2-methyloxiran-2-yl)methyl)-6-phenyl-1,3-oxazinan-2-one which was used directly in Step 5.

reactant | 6-(2-methylallyl)-6-phenyl-1,3-oxazinan-2-one | 193 mmol, 135.8 g, 1.00 equiv | CC(CC1(CCNC(O1)=O)C1=CC=CC=C1)=C | C14H17NO2
reactant | dichloromethane | 700 mL | ClCCl | CH2Cl2
reactant | 3-chloroperbenzoic acid | 386 mmol, 95.3 g, 2.0 equiv | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methyl tert-butyl ether | 700 mL | C(C)(C)(C)OC | C5H12O
product | 6-((2-methyloxiran-2-yl)methyl)-6-phenyl-1,3-oxazinan-2-one | CC1(OC1)CC1(CCNC(O1)=O)C1=CC=CC=C1 | C14H17NO3
